US08278302B2
[3-Amino-5-(1-methyl-1H-tetrazol-5-yl)-phenyl]-methanol
To a solution of 3-Amino-5-(1-methyl-1H-tetrazol-5-yl)-benzoic acid ethyl ester (250 mg) in THF (5 ml) at 0° C. was added pre-cooled 1M LiAlH4 solution in THF (2 ml) dropwise. This was stirred for 3 h. The reaction mixture was poured onto ice-water and extracted into EtOAc. The organic layer was separated, dried and concentrated in vacuum. Flash chromatography (100:0 to 95:5 gradient DCM:MeOH) afforded the title compound (70 mg).

reactant | 3-Amino-5-(1-methyl-1H-tetrazol-5-yl)-benzoic acid ethyl ester | 250 mg | C(C)OC(C1=CC(=CC(=C1)C1=NN=NN1C)N)=O | C11H13N5O2
reactant | LiAlH4 | 1M | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | THF | 2 ml | C1CCOC1 | C4H8O
product | [3-Amino-5-(1-methyl-1H-tetrazol-5-yl)-phenyl]-methanol | 70 mg | NC=1C=C(C=C(C1)C1=NN=NN1C)CO | C9H11N5O
